reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2](=[O:3])[C:4]([O:5][H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([O:3][O:5][H:11])=[C:4]([H:9])[H:10])([H:6])([H:7])[H:8],126.95094610883301
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5][O:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],80.4143028032486
[C:1]([C:2](=[O:3])[C:4]([O:5][H:12])=[C:6]=[O:7])([H:8])([H:9])[H:10].[H:11][H:13]>>[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10],35.18765684440921
[C:1]([C@@:2]([O:3][H:12])([C:4]([O:7][C:6](=[C:5]([H:15])[H:16])[H:17])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],69.95799999873711
[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])/[C:2](=[N:3]\[H:11])[O:4][C:5]([H:12])([H:13])[C@@:6]1([O:7][H:9])[H:14],83.26311936039791
[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:12])[H:13])[N:5]([C+:6]([O-:7])[H:16])[H:15])([H:8])([H:9])[H:10].[O:4]([H:11])[H:14],66.0590858187177
[O:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3](=[C:4])[C:5]#[N:6])([H:8])[H:9])[H:7],53.6761129152534
[O:1]([C:2]([C:3]([C:4]([N:5]([H:13])[H:14])([H:11])[H:12])=[C:6]=[O:7])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8],107.96873674076565
[O:1]([C:2]([C:3]#[C:4][C@@:6]1([H:13])[C:5]([H:11])([H:12])[O:7]1)([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],74.4303007330848
[C:1]([C:2]([C+:3]=[C:5]=[N-:6])([H:10])[H:11])([H:7])([H:8])[H:9].[O:4]([H:12])[H:13]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],4.167898497204092
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:6]#[N:7])[H:14])([H:8])([H:9])[H:10].[C:4]([O:5][H:16])[H:15]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([O:5][H:16])([H:14])[H:15])[C:6]#[N:7])([H:8])([H:9])[H:10],16.975440366109794
[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[C:3](\[N:4]=[C:5](/[O:6][H:13])[C:7]([H:16])([H:17])[H:18])[H:14])[H:11])([H:8])([H:9])[H:10].[H:12][H:15],102.513656426003
[N:1]1([H:8])[C:2]([H:9])([H:12])[O:3][C:4]([H:10])([H:11])[C:5]([H:13])=[C:6]=[N:7]1>>[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],29.6797604328967
[O:1]=[C:2]=[C:5]=[N:6][C:3]#[C:4][H:7]>>[O:1]=[C:2]([C:3]#[C:4][H:7])[C:5]#[N:6],67.25216494440599
[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6][O:7][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],29.131553589106296
[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[N+:1]([C-:2]([C:5]#[N:6])[H:9])([C:3]([O:4][H:12])([H:10])[H:11])([H:7])[H:8],97.8162628124531
[O:1]1[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1=[C:6]([H:7])[H:14]>>[O:1]([C:2]([C:3]([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],84.25581616889329
[O:1]([C:4]([C:5]([O:6][C:3](=[C:2]([H:8])[H:9])[H:10])([H:13])[H:14])([H:11])[H:12])[H:7]>>[O:1]([C:2]([C@@:3]1([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)([H:8])[H:9])[H:7],99.5420134809392
[C:1]([O:2]/[C:3]([O:4][H:10])=[C:5](\[N:6]([H:12])[H:13])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[O:4])[C:5]([N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],41.11028983247631
[O:1]1[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])([H:11])[N:5]2[C@@:6]1([H:12])[O:7]2>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8],32.53066683814658
[N:1]([C@@:2]([C:3]#[C:4][H:10])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[N+:1]([C-:2]([C:3]#[C:4][H:10])[C:5]#[N:6])([H:7])([H:8])[H:9],60.0018379711891
[C:6](=[O:7])([H:13])[H:14].[N:1]([C:2](=[O:3])[N:4]([C:5]([H:11])([H:12])[H:15])[H:10])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9],60.537196461560804
[O:1]([C+:2]=[C:3]([O-:4])[C:5]#[N:6])[H:7]>>[O:1]=[C:2]([C:3](=[O:4])[C:5]#[N:6])[H:7],34.505515828670006
[C:1]([C:2]1([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[O:5]1)([H:6])([H:7])[H:8]>>[C:1]([C-:2]=[O+:5][C:4]([C:3]([H:9])([H:10])[H:11])([H:12])[H:13])([H:6])([H:7])[H:8],105.897851438759
[C:1]([C@@:2]1([O:4][H:13])[C:3]([H:10])([H:12])/[C:5]1=[N:6]\[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[N:6])([H:7])([H:8])[H:9],72.70045649840881
